US06825189B1
1-(6-Chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine
A stirred solution of 1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine (3.6 g, 10 mmol) in tetrahydrofuran (200 ml) was cooled to −78° C. Tert-butyllithium (14.7 ml, 1.5 M) in pentane was added during 10 min, followed by stirring for 5 min at −78° C. 1,3-Dichloro-5,5-dimethylhydantoin (1.97 g, 10 mmol) was added in small portions. The mixture was stirred for 0.5 min. Aqueous sodium hydroxide was added (100 ml, 4 M), and the reaction was allowed reach room temperature. The mixture was extracted twice with diethyl ether (100 ml) Chromatography on silica gel with a mixture of petroleum:ethyl acetate (1:1) gave the title compound as free base. Yield 1.7 g, 55%.

reactant | 1-(6-Bromo-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | 10 mmol, 3.6 g | BrC1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22BrN3O2
reactant | Tert-butyllithium | 1.5 M, 14.7 ml | C(C)(C)(C)[Li]
reactant | 1,3-Dichloro-5,5-dimethylhydantoin | 10 mmol, 1.97 g | ClN1C(=O)N(C(=O)C1(C)C)Cl | C5H6Cl2N2O2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 1-(6-Chloro-3-pyridyl)-4-tert-butoxycarbonyl homopiperazine | ClC1=CC=C(C=N1)N1CCN(CCC1)C(=O)OC(C)(C)C | C15H22ClN3O2
